US05952368
A solution of N-{2-[5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]pyridin-5-yl}amine (0.3 g, 0.88 mmol) [prepared by the method described in Example 5, but substituting zomepirac methyl ester for tolmetin methyl ester in Step (a)] and acetic anhydride (0.375 ml, 3.96 mmol) in THF was stirred at 60 ° C. for 4 h. The solvents were removed under reduced pressure and the residue was crystallized from hexane-chloroform to give N-{2-[5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]pyridin-5-yl}-acetamide (295 mg, 88%) as a solid, mp 194-195° C.

reactant | N-{2-[5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]pyridin-5-yl}amine | 0.88 mmol, 0.3 g | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC2=NC=C(C=C2)N)C)C=C1 | C19H18ClN3O
reactant | tolmetin methyl ester | CC1=CC=C(C=C1)C(=O)C2=CC=C(N2C)CC(=O)OC | C16H17NO3
reactant | acetic anhydride | 3.96 mmol, 0.375 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | C1CCOC1 | C4H8O
product | N-{2-[5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]pyridin-5-yl}-acetamide | 295 mg, 88% | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC2=NC=C(C=C2)NC(C)=O)C)C=C1 | C21H20ClN3O2
